//============================================================================
// Junction Diode
// Dxx NP NN
//      [NM] MNAME [[AREA=]AREA_VAL] [PERI|PJ|PD=PERIVAL]
//    + [PGATE=PGATE_VAL] [T[EMP]=VAL] [DTEMP=VAL] [M=VAL] [OFF=0|1]
//    + [STATISTICAL=0|1] [NOISE=0|1] [NONOISE]
//
//      [NM] MNAME [FMIN=VAL] [FMAX=VAL] [NBF=VAL] [STATISTICAL=0|1]
//============================================================================
d1 1 2 diode1
d2 1 2 diode1
d3 1 3 diode1
d1 1 2 diode1 M=2
d1 1 2 diode1 T=50
d1 2 10 dio
dbridge 2 10 diode1
